data/mechanism_extracts/OrgChemFront/10.1039_d3qo00731f.json
{"doi": "10.1039_d3qo00731f", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical oxidative radical cascade oxydifluoromethylation of N-acyl-(2-ene)anilines (olefinic amides) with sodium difluoromethanesulfinate to give difluoromethylated benzoxazines in an undivided cell.", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of CF2HSO2Na (2a) on graphite anode to generate the difluoromethyl radical (with SO2 extrusion); a second anodic oxidation converts the cyclized benzyl radical to a benzyl cation. Cathode (Pt) reduces protons to H2.", "key_intermediates": [{"name": "difluoromethyl radical (•CF2H)", "smiles": "[CH]F", "role": "reactive"}, {"name": "benzyl radical Int-1 from CF2H addition to alkene", "smiles": null, "role": "reactive"}, {"name": "benzyl cation Int-2 (after anodic oxidation of Int-1)", "smiles": null, "role": "reactive"}, {"name": "difluoromethylated benzoxazine product 3", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes CF2HSO2Na to •CF2H (loss of SO2), which adds to the alkene of the N-acyl olefinic amide to give a benzyl radical (Int-1); a second anodic oxidation generates a benzyl cation (Int-2) that is trapped by intramolecular nucleophilic attack of the amide oxygen to form the benzoxazine, while protons are reduced at the cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "BHT", "smiles": "CC(C)(C)c1cc(C)cc(C(C)(C)C)c1O", "purpose": "radical_trap", "observation": "Product 3aa formed only in trace at 1.0–3.0 equiv BHT; BHT–CF2H adduct 4 detected by EI-MS, supporting •CF2H formation."}, {"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction fully inhibited at 2.0–3.0 equiv TEMPO; TEMPO–CF2H adduct 5 detected by EI-MS; however putative TEMPO adduct of the benzyl radical (6) was not detected, and self-coupling products 7/8 of Int-1 were not observed."}, {"name": "cyclic voltammetry", "smiles": null, "purpose": "redox_probe", "observation": "Olefin 1a not oxidized up to 2.0 V (vs Ag/AgCl); 2a oxidized at ~0.75 V, indicating the cascade is initiated by oxidation of 2a rather than the alkene, and ruling out a radical–radical coupling pathway."}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "cyclic_voltammetry"], "evidence_strength": "medium", "notes": "A radical–radical coupling pathway between •CF2H and an anilide-derived radical was explicitly ruled out by CV (1a is not oxidized in the operating window). Absence of TEMPO-trapped benzyl radical (6) and self-coupling products (7,8) is rationalized by rapid further anodic oxidation of Int-1 to the cation Int-2 (radical–polar crossover) rather than radical termination."}
